US07994205B2
2-phenyl-1-(pyridin-3-ylsulfonyl)-1H-imidazole-4-carbaldehyde
To a solution of 2-phenyl-1H-imidazole-4-carbaldehyde (1.00 g) in tetrahydrofuran (50 mL) was added sodium hydride (60% in oil, 697 mg) at room temperature, and the mixture was stirred for 30 min. 15-Crown-5 (3.84 g) was added dropwise, and the mixture was further stirred for 10 min. 3-Pyridylsulfonyl chloride hydrochloride (1.62 g) was added to the reaction mixture, and the mixture was stirred for 2 hr. Saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=3:2→42:3), and the obtained oil was crystallized from diisopropyl ether to give the title compound as colorless crystals (yield 754 mg, 41%).

reactant | 2-phenyl-1H-imidazole-4-carbaldehyde | 1.00 g | C1(=CC=CC=C1)C=1NC=C(N1)C=O | C10H8N2O
reactant | sodium hydride | 697 mg | [H-].[Na+]
reactant | 15-Crown-5 | 3.84 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 3-Pyridylsulfonyl chloride hydrochloride | 1.62 g | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-phenyl-1-(pyridin-3-ylsulfonyl)-1H-imidazole-4-carbaldehyde | yield 754 mg, 41% | C1(=CC=CC=C1)C=1N(C=C(N1)C=O)S(=O)(=O)C=1C=NC=CC1 | C15H11N3O3S
